US06156700
A mixture of tert-butyl α-acetyl-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-propionate (0.700 g) and trifluoroacetic acid (10.0 mL) in methylene chloride is stirred overnight at room temperature, concentrated in vacuo, and diluted with methylene chloride and saturated sodium hydrogen carbonate solution. The phases are separated. The organic phase is dried over anhydrous magnesium sulfate and concentrated in vacuo to give 1-methyl-3-[3-(3-oxobutyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione as a white solid (0.310 g, mp 198-199° C.). The aqueous phase is acidified with concentrated hydrochloric acid, stirred for several minutes, and filtered to obtain a solid. The solid is washed with water and air-dried to give α-acetyl-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-propionic acid as a white solid, mp 191-193° C.

reactant | tert-butyl α-acetyl-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-1,2-benzisothiazole-3-propionate | 0.700 g | C(C)(=O)C(C(=O)OC(C)(C)C)CC1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C22H22F3N3O5S
reactant | trifluoroacetic acid | 10.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-methyl-3-[3-(3-oxobutyl)-1,2-benzisothiazol-5-yl]-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.310 g | CN1C(N(C(C=C1C(F)(F)F)=O)C=1C=CC2=C(C(=NS2)CCC(C)=O)C1)=O | C17H14F3N3O3S
